US08802697B2
Synthesis of 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-methylpyrimidin-2-yl)amino)-3-nitrobenzoic acid
A mixture of tert-butyl 4-(2-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate (0.15 g, 0.48 mmol), 4-amino-3-nitrobenzoic acid (97 mg, 0.53 mmol), BrettPhos-Pd Admixture (20 mg, 0.015 mmol), and cesium carbonate (470 mg, 1.44 mmol) in tBuOH (2.4 mL) was heated in a sealed tube at 100° C. overnight. The mixture was diluted with EtOAc, filtered through a celite plug, loaded onto silica gel and purified using 0-10% MeOH/DCM gradient to give the title compound (75 mg, 34%). MS (ES+) C21H26N6O6 requires: 458. found: 459 [M+H]+

reactant | tert-butyl 4-(2-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate | 0.48 mmol, 0.15 g | ClC1=NC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C14H21ClN4O2
reactant | 4-amino-3-nitrobenzoic acid | 0.53 mmol, 97 mg | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | cesium carbonate | 1.44 mmol, 470 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tBuOH | 2.4 mL | CC(C)(C)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | BrettPhos Pd | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.[Pd]
product | 4-((4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-5-methylpyrimidin-2-yl)amino)-3-nitrobenzoic acid | 75 mg, 34% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1C)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C21H26N6O6
